US04772600
2-(4-Chlorophenyl)-N,N-dipropyl-3H-imidazo[4,5-b]pyridine-3-propanamide
A suspension of 2-(4-chlorophenyl)-3H-imidazo[4,5-b]pyridine-3-propanoic acid (5.0 g, 0.0166 mole), 1,1'-carbonyldiimidazole (3.21 g, 0.0198 mole) and dry tetrahydrofuran (100 ml) was stirred at room temperature for 1 hour with nitrogen bubbling through it. The reaction mixture was then heated at reflux for 1 hour under nitrogen during which a solution formed. A solution of dipropylamine (5.04 g, 0.050 mole) in tetrahydrofuran (7 ml) was added and the reaction mixture was heated at 50° C. overnight under nitrogen. The reaction mixture was evaporated under reduced pressure and the residue was partitioned between water and ethyl acetate (100 ml of each). The two layer mixture was filtered to remove an insoluble solid and the layers were separated. The aqueous layer was re-extracted once with ethyl acetate and the combined organic layers were washed once with a 5% potassium hydroxide solution (100 ml), dried over sodium sulfate, filtered, and evaporated to a residue weighing 8.9 g. The residue was dissolved in hot isopropyl alcohol, filtered, cooled to room temperature, and water was added. Solid formed which was collected by filtration to give 4.84 g (76%) of a white solid, after drying under vacuum overnight, mp 104°-105.5° C.

reactant | 2-(4-chlorophenyl)-3H-imidazo[4,5-b]pyridine-3-propanoic acid | 0.0166 mole, 5.0 g | ClC1=CC=C(C=C1)C1=NC=2C(=NC=CC2)N1CCC(=O)O | C15H12ClN3O2
reactant | 1,1'-carbonyldiimidazole | 0.0198 mole, 3.21 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | dipropylamine | 0.050 mole, 5.04 g | C(CC)NCCC | C6H15N
solvent | tetrahydrofuran | 7 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 2-(4-Chlorophenyl)-N,N-dipropyl-3H-imidazo[4,5-b]pyridine-3-propanamide | 4.84 g, 76% | ClC1=CC=C(C=C1)C1=NC=2C(=NC=CC2)N1CCC(=O)N(CCC)CCC | C21H25ClN4O
